US06162819
5-Amino-1-benzyl-3-(5-hydroxymethyl-2-furyl)indazole:
A solution of 80 mg (0.23 mmol) of 5-amino-I-benzyl-3-(5-methoxycarbonyl-2-furyl)indazole in 5 ml of THF was added dropwise to 0.01 g (0.3 mmol) of lithium aluminum hydride in 5 ml of THF, and the mixture was stirred at RT. After 3 h, 10 ml of a 25% strength K2CO3 solution were added and stirring was continued for 30 min. The precipitate was filtered off with suction and extracted with boiling THF, the combined organic phases were dried and concentrated and the residue was chromatographed over silica gel using 95:5 dichloromethane/methanol. This gave 21 mg (29%) of the title compound. m.p.: 156° C.

reactant | 5-amino-I-benzyl-3-(5-methoxycarbonyl-2-furyl)indazole | 0.23 mmol, 80 mg | NC=1C=C2C(=NN(C2=CC1)CC1=CC=CC=C1)C=1OC(=CC1)C(=O)OC | C20H17N3O3
reactant | lithium aluminum hydride | 0.3 mmol, 0.01 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-Amino-1-benzyl-3-(5-hydroxymethyl-2-furyl)indazole | NC=1C=C2C(=NN(C2=CC1)CC1=CC=CC=C1)C=1OC(=CC1)CO | C19H17N3O2
